US06172075B2
(RS)-8-(cis-4-Isopropyl-cyclohexyl)-4-methoxy-1-phenyl-1,8-diaza-spiro[4.5]decane hydrochloride (1:1)
RS)-8-(cis-4-Isopropyl-cyclohexyl)-1-phenyl-1,8-diaza-spiro[4.5]decan-4-ol hydrochloride (0.3 mmol) was dissolved in dimethylformamide (15 ml), sodium hydride (1.2 mmol) was added and the mixture stirred for 1 h at room temperature. Dimethylsulfate (0.9 mmol) was added and stirring continued for 5 h. The mixture was quenched with ice-water (10 ml) and saturated sodiumbicarbonate solution (10 ml) and extracted three times with dichloromethane. The organic phases were pooled, dried with Na2SO4 and concentrated. Chromatography on silica gel (ethyl acetate) yielded the desired product which was crystallized as its HCl-salt from ethanol. 55 mg (44%) (RS)-8-(cis-4-isopropyl-cyclohexyl)-4-methoxy-1-phenyl-1,8-diaza-spiro[4.5]decane hydrochloride (1:1) as a colorless solid, m.p. 214-215° C. and MS: m/e=371.4 (M+H+).

reactant | 8-(cis-4-Isopropyl-cyclohexyl)-1-phenyl-1,8-diaza-spiro[4.5]decan-4-ol hydrochloride | 0.3 mmol | Cl.C(C)(C)[C@H]1CC[C@H](CC1)N1CCC2(C(CCN2C2=CC=CC=C2)O)CC1
reactant | sodium hydride | 1.2 mmol | [H-].[Na+]
reactant | Dimethylsulfate | 0.9 mmol | COS(=O)(=O)OC | C2H6O4S
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (RS)-8-(cis-4-Isopropyl-cyclohexyl)-4-methoxy-1-phenyl-1,8-diaza-spiro[4.5]decane hydrochloride | Cl.C(C)(C)[C@H]1CC[C@H](CC1)N1CCC2(C(CCN2C2=CC=CC=C2)OC)CC1 | InChI=1S/C24H38N2O.ClH/c1-19(2)20-9-11-21(12-10-20)25-17-14-24(15-18-25)23(27-3)13-16-26(24)22-7-5-4-6-8-22;/h4-8,19-21,23H,9-18H2,1-3H3;1H/t20-,21+,23?;
